US07238813B2
1-Benzyl-6-hydroxy-2-(tert-butoxycarbonylamino)-1H-benzimidazole
1-Benzyl-6-hydroxy-2-amino-1H-benzimidazole was treated with BOC2O in pyridine, followed by hydrolysis with NaOH (aq) to give the title compound; MS m/e 340 (M+1).

reactant | 1-Benzyl-6-hydroxy-2-amino-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)O)N | C14H13N3O
reactant | BOC2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | [OH-].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Benzyl-6-hydroxy-2-(tert-butoxycarbonylamino)-1H-benzimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)O)NC(=O)OC(C)(C)C | C19H21N3O3
